US05017724
363.5 Grams of 1-bromocyclohexyl 3,5-dimethyl-2-methoxyphenyl ketone was dissolved in 1 liter of dimethylformamide. To the solution was added 140 g of lithium chloride, followed by stirring at 90° C. for 1 hour. The reaction mixture was poured into 1 liter of ice water with stirring and the organic layer was extracted with 3 liters of methylene chloride. The extract was washed with water and saturated aqueous sodium chloride solution in this order and then dried with anhydrous magnesium sulfate and methylene chloride was distilled off under reduced pressure. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=96:4) to obtain 197.0 g of 1-cyclohexenyl 3,5-dimethyl-2-methoxyphenyl ketone.

reactant | 1-bromocyclohexyl 3,5-dimethyl-2-methoxyphenyl ketone | CC=1C(=C(C=C(C1)C)C(=O)C1(CCCCC1)Br)OC | C16H21BrO2
reactant | lithium chloride | 140 g | [Cl-].[Li+]
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | 1-cyclohexenyl 3,5-dimethyl-2-methoxyphenyl ketone | 197.0 g | CC=1C(=C(C=C(C1)C)C(=O)C1=CCCCC1)OC | C16H20O2
